US07964643B2
4′-Bromo-biphenyl sulfonyl chloride
4′-Bromo-biphenyl sulfonic acid (5 g) was refluxed in thionyl chloride (30 mL) with a catalytic quantity of DMF (0.5 mL) for 4 hours. Toluene was added and the solvents evaporated under vacuum. The residue collected was recrystallised from petrol/ethyl acetate to give the title compound as large colourless crystals.

reactant | 4′-Bromo-biphenyl sulfonic acid | 5 g | BrC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)O | C12H9BrO3S
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 30 mL | S(=O)(Cl)Cl | Cl2OS
product | 4′-Bromo-biphenyl sulfonyl chloride | BrC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)Cl | C12H8BrClO2S
